US07589206B2
i) 7-(3-Chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid
A mixture of 7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1,4-dicarboxylic acid 1-tert-butyl ester (200 mg) and 3-chloroaniline (0.68 ml) in 1,4-dioxane (3 ml) was heated at 110° C. for 16 hours. The reaction mixture was diluted with EtOAc and basified with 1M NaOH, the aqueous layer was extracted and acidified to pH1 using 1M HCl to afford a precipitate. The precipitate was filtered off and washed with water until neutral. The solid was then sucked dry and dried over sodium hydroxide at 50° C. under vacuum to afford the title compound (197 mg).

reactant | 7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1,4-dicarboxylic acid 1-tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1C=C(C2=C1C(=NC=C2C(=O)O)Cl)C | C14H15ClN2O4
reactant | 3-chloroaniline | 0.68 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaOH | 1M | [OH-].[Na+]
product | 7-(3-Chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | 197 mg | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1NC=C2C)C(=O)O | C15H12ClN3O2
